US07981903B2
To a solution of 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,10-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (300 mg, 0.445 mmol) in THF (5 mL) was added propylamine (0.183 mL, 2.22 mmol). The resulting mixture was let stir at rt for 5 h at which time it was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a yellow solid, containing 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,6-difluoro-N-propylbenzamide. This crude material was dissolved in 1,4-dioxane (5 mL) and transferred to a 20 ml microwave vessel. A solution of 2 M NaOH (5 ml) was added and reaction heated in microwave at 120° C. for 8 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a yellow solid which was purified via chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-4,6-difluoro-N-propylbenzamide (54 mg, 0.093 mmol) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.85 (t, J=7.37 Hz, 3 H) 1.41-1.56 (m, 2 H) 2.19 (s, 6 H) 3.02-3.15 (m, 4 H) 3.19-3.25 (m, 2 H) 3.72 (s, 3H) 4.11 (t, J=8.29 Hz, 2 H) 6.17 (d, J=1.28 Hz, 1 H) 6.76-6.87 (m, 1 H) 6.88-6.97 (m, 2 H) 7.74 (s, 1 H) 8.34-8.43 (m, 1 H) 8.45 (s, 1 H) 8.61 (br. s., 1 H) 10.40 (s, 1 H) 11.28 (br. s., 1 H). (ESIMS (M+H)+=579)

reactant | 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,10-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.445 mmol, 300 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC(=CC(=C4C(N31)=O)F)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C33H29F2N7O5S
reactant | propylamine | 2.22 mmol, 0.183 mL | C(CC)N | C3H9N
reactant | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,6-difluoro-N-propylbenzamide | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NCCC)C(=CC(=C2)F)F)OC)C | C36H38F2N8O5S
reactant | NaOH | 2 M, 5 ml | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-4,6-difluoro-N-propylbenzamide | 0.093 mmol, 54 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NCCC)C(=CC(=C2)F)F)OC)C | C29H32F2N8O3
